US06992085B2
Step A: 4-(4-Bromobutyl)-2H-1,4-benzoxazin-3(4H)-one
The procedure is as for Example 53, Step A, using as substrate 4H-benzo[1,4]oxazin-3-one and 1,4-dibromobutane.

reactant | 4H-benzo[1,4]oxazin-3-one | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 4-(4-Bromobutyl)-2H-1,4-benzoxazin-3(4H)-one | BrCCCCN1C(COC2=C1C=CC=C2)=O | C12H14BrNO2
